US07902223B2
10 ml of water and 840 mg (21.0 mmol) of sodium hydroxide are added to a solution of 5.20 g (19.0 mmol) of ethyl 2-(isoquinolin-7-yloxy) -pentanoate in 50 ml of methanol, and the mixture is stirred at room temperature for 42 hours. The solvent is removed by distillation, giving 2-(isoquinolin-7-yloxy)pentanoic acid sodium salt as a colourless solid; ESI 246.

reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | 21.0 mmol, 840 mg | [OH-].[Na+]
reactant | ethyl 2-(isoquinolin-7-yloxy) -pentanoate | 19.0 mmol, 5.20 g | C1=NC=CC2=CC=C(C=C12)OC(C(=O)OCC)CCC | C16H19NO3
solvent | methanol | 50 ml | CO | CH4O
product | 2-(isoquinolin-7-yloxy)pentanoic acid sodium salt | [Na+].C1=NC=CC2=CC=C(C=C12)OC(C(=O)[O-])CCC | InChI=1S/C14H15NO3.Na/c1-2-3-13(14(16)17)18-12-5-4-10-6-7-15-9-11(10)8-12;/h4-9,13H,2-3H2,1H3,(H,16,17);/q;+1/p-1
